US07956191B2
3-[(2-chloro-4-iodophenyl)amino]-N-{[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy}isonicotinamide (100.00 mg, 0.198 mmol.) from the reaction described above was dissolved in acetic acid (1 ml) was heated at 90° C. for 2 h. The reaction was monitored by HPLC. After completion, acetic acid was removed and the crude was purified on Flashmaster II to obtain 40 mg (43%) of 3-[(2-chloro-4-iodophenyl)amino]-N-{[(2R)-2,3-dihydroxypropyl]oxy}isonicotinamide. LC/MS: [7.97 min; 464, 466 (M+1)]

reactant | 3-[(2-chloro-4-iodophenyl)amino]-N-{[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy}isonicotinamide | 0.198 mmol, 100.00 mg | ClC1=C(C=CC(=C1)I)NC1=C(C(=O)NOC[C@@H]2OC(OC2)(C)C)C=CN=C1 | C18H19ClIN3O4
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 3-[(2-chloro-4-iodophenyl)amino]-N-{[(2R)-2,3-dihydroxypropyl]oxy}isonicotinamide | 40 mg, 43% | ClC1=C(C=CC(=C1)I)NC1=C(C(=O)NOC[C@@H](CO)O)C=CN=C1 | C15H15ClIN3O4
